US06492383B1
(2-Methyl-1H-indol-5yl)-[2-(4-Methyl-thiophen-2-yl)-thieno[3,2-b]pyridin-7-yl-]-amine
The title compound was prepared from 4-methyl-2-thiopheneboronic acid and (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine by the procedure analogous to example 2 above. 1H NMR (400 MHz, CD3OD) δ8.00 (d, 1H), 7.25 (m, 3H), 7.10 (s, 1H), 6.95 (s, 1H), 6.94 (dd, 1H), 6.52 (d, 1H), 6.08 (s, 1H), 2.39 (s, 3H), 2.18 (s, 3H); RP18-HPLC RT: 6.41 minutes; API MS: 376 (M+1).

reactant | 4-methyl-2-thiopheneboronic acid | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C16H12BrN3S
product | (2-Methyl-1H-indol-5yl)-[2-(4-Methyl-thiophen-2-yl)-thieno[3,2-b]pyridin-7-yl-]-amine | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C=2SC=C(C2)C | C21H17N3S2
